US05807859
To a suspension of 0.6 g of 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride in 30 ml of anhydrous dimethylformamide are added successively, at a temperature in the region of 20° C., 0.6 g of triethylamine and 0.42 g of nicotinoyl chloride hydrochloride. The mixture is stirred for 2 hours at the same temperature, the insoluble product formed is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 80° C. The product obtained (1.04 g) is suspended for 10 minutes in 20 ml of boiling isopropanol and, after cooling and storing at 5° C. for 1 hour, is isolated by filtration, washed with 1 ml of chilled isopropanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 60° C. The product obtained (0.43 g) is suspended in 5 ml of methanol, isolated by filtration, washed with 2 ml of methanol and dried under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.24 g of 10-nicotinoylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, decomposing without melting above 260° C. (NMR spectrum: [200 MHz; (CD3)2SO-d6 ; δ in ppm]: 6.42 (d, J=8.5 Hz, 1H: --CH 10); 7.40 and 7.51 (2 broad t, J=8 Hz, 1H each: --H7 and --H8); 7.58 and 7.92 (2 broad d, J=8 Hz, 1H each: --H6 and --H9); 7.62 and 7.74 (2s, 1H each: --H of the imidazole); 7.62 (dd, J=8.5 and 5 Hz, 1H: --H at 5 of the pyridine); 8.33 (broad d, J=8.5 Hz, 1H: --H at 4 of the pyridine); 8.79 (broad d, J=5 Hz, 1H: --H at 6 of the pyridine); 9.11 (mt, 1H: --H at 2 of the pyridine); 9.38 (d, J=8.5 Hz, 1H: --NHCO-- at 10); 12.63 (broad s, 1H: --CONH of the ring)).

reactant | 10-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one hydrochloride | 0.6 g | Cl.NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
reactant | nicotinoyl chloride hydrochloride | 0.42 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | methanol | 5 ml | CO | CH4O
product | 10-nicotinoylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.24 g | C(C1=CN=CC=C1)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H13N5O2
